US06812237B2
To a solution of methyl 2-fluoro-5-methylbenzoate (17.16 g, 102.1 mmol) in CCl4(250 mL) is added NBS (18.2 g, 102.1 mmol) and AIBN (0.83 g, 5.1 mmol), and the resulting solution is refluxed for 3 hours. After cooling, the mixture is filtered through celite, evaporated, and chromatographed (silica, 5 to 15% EtOAc/hexane) to yield methyl 5-bromomethyl-2-fluorobenzoate, as a white solid.

reactant | methyl 2-fluoro-5-methylbenzoate | 102.1 mmol, 17.16 g | FC1=C(C(=O)OC)C=C(C=C1)C | C9H9FO2
reactant | NBS | 102.1 mmol, 18.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 5.1 mmol, 0.83 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 5-bromomethyl-2-fluorobenzoate | BrCC=1C=CC(=C(C(=O)OC)C1)F | C9H8BrFO2
